US05192766
1-(3-Phenylcinnamoyl)-4-(3,4,5-trimethoxybenzyl)piperazine
Following a procedure similar to that described in Example 61, but using 0.500 g of 3-phenylcinnamic acid and 0.653 g of 1-(3,4,5-trimethoxybenzyl)piperazine, 0.897 g of the title compound was obtained as a powder.

reactant | 3-phenylcinnamic acid | 0.500 g | C1(=CC=CC=C1)C=1C=C(C=CC(=O)O)C=CC1 | C15H12O2
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine | 0.653 g | COC=1C=C(CN2CCNCC2)C=C(C1OC)OC | C14H22N2O3
product | 1-(3-Phenylcinnamoyl)-4-(3,4,5-trimethoxybenzyl)piperazine | 0.897 g | C1(=CC=CC=C1)C=1C=C(C=CC(=O)N2CCN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC)C=CC1 | C29H32N2O4
